US07081470B2
3-[(6-CHLORO-3-PYRIDINYL)IMINO]-1-PHENYL-1,3-DIHYDRO-2H-INDOL-2-ONE
1-phenylisatin (23.0 mg, 0.10 mmol) and 5-amino-2-chloropyridine (12.8 mg, 0.10 mmol) were mixed and heated at 140° C. for 7 h. The resulting crude product was purified by preparative TLC using hexane/ethyl acetate (8:2) as the eluent, giving the desired product as a yellow solid (19.7 mg, 59%). 1H NMR (400 MHz) δ 8.15 (d, J=8, 1H), 7.6–7.2 (m, 9H), 6.85–6.75 (m, 2H); ESI-MS m/z found 334 (MH+).

reactant | 1-phenylisatin | 0.10 mmol, 23.0 mg | C1(=CC=CC=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C14H9NO2
reactant | 5-amino-2-chloropyridine | 0.10 mmol, 12.8 mg | NC=1C=CC(=NC1)Cl | C5H5ClN2
product | 3-[(6-CHLORO-3-PYRIDINYL)IMINO]-1-PHENYL-1,3-DIHYDRO-2H-INDOL-2-ONE | 19.7 mg, 59% | ClC1=CC=C(C=N1)N=C1C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O | C19H12ClN3O
